Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
peanut / hazelnuts / sesame seed / birch / latex
 
Attending: ___.
 
Chief Complaint:
"pelvic organ prolapse".
 
Major Surgical or Invasive Procedure:
Transvaginal hysterectomy, Bilateral salpingectomy, uterosacral 
vault suspension, posterior repair, cystoscopy 

 
History of Present Illness:
HPI: Mrs. ___ is a ___ yo Gravida 2 Para 2  who returns
today regarding uterine prolapse.  Her symptoms have been 
present
for approximately 8 months. She is currently using a pessary

Mrs. ___ also reports vaginal pressure and palpable
prolapse. Prior to pessary use she would need to splint to void. 

 

Her treatment has included:
Pelvic floor exercises
Pessary 
 
She reports occasional stress incontinence events. She reports
urinary urgency and frequency but denies dysuria. 

She reports bladder emptying with normal uninterrupted flow. She
denies any hematuria, UTI's, kidney stones or pyelonephritis.
 

She denies constipation. She denies needing to splint to have
BM's. She denies fecal incontinence and states she has a normal
bowel movement almost daily.  

She is sexually active. She denies dyspareunia or vaginal
dryness. 

She is otherwise without any other significant complaints.
 
Recent UDS: + SUI @ capacity 
MUCP 72, 63 cm H20
 
Past Medical History:
PAST OB HISTORY
G 2 P 2
Vaginal:  2
C-Section:  0
 
PAST GYN HISTORY
She is postmenopausal since ___
She denies post-menopausal bleeding.
Her last PAP smear was reportedly normal

PAST MEDICAL HISTORY:
Diabetes
High blood pressure                                             
 
 
PAST SURGICAL HISTORY
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On day of discharge:
24 HR Data (last updated ___ @ 535)
    Temp: 98.4 (Tm 98.4), BP: 96/61 (96-117/61-69), HR: 88
(88-94), RR: 18, O2 sat: 99% (94-99), O2 delivery: RA
 Fluid Balance (last updated ___ @ 427)
  Last 8 hours  Total cumulative -391ml
    IN: Total 509ml, IV Amt Infused 509ml
    OUT:  Total 900ml, Urine Amt 860ml, ___ pad 40ml
  Last 24 hours  Total cumulative -448ml
    IN: Total 1027ml, PO Amt 220ml, IV Amt Infused 807ml
    OUT:  Total 1475ml, Urine Amt 1435ml, ___ pad 40ml
___ 2053 FSBG: 173 
___ 0311 FSBG: 150 
___ 0535 FSBG: 128 
Physical Exam:
 General: NAD, comfortable
 CV: RRR
 Lungs: CTAB
 Abdomen: soft, non-distended, nontender to palpation without
rebound or guarding
 GU: pad with minimal spotting, foley draining clear orange 
urine
 Extremities: no edema, no TTP, pneumoboots in place bilaterally
  
 
Pertinent Results:
NA
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a Total Vaginal Hysterectomy, High uterosacral 
vaginal vault suspension, Bilateral Salpingectomy, posterior 
repair, mid urethral sling, cystoscopy. Please see the operative 
report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV 
morphine/Tylenol/toradol. On post-operative day 1, her urine 
output was adequate, so her foley was removed, she underwent a 
backfill trial of void with 300cc and voided 350cc with a PVR of 
0cc. Her diet was advanced without difficulty, and she was 
transitioned to PO tramadol, Tylenol. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
cholecalciferol (vitamin D3) 50 mcg (2,000 unit) capsule
capsule(s) by mouth (Prescribed by Other Provider; one po 
___

hydrochlorothiazide 25 mg tablet
tablet(s) by mouth (one po ___

metformin 500 mg tablet
tablet(s) by mouth (Prescribed by Other Provider; one po 
___

simvastatin 20 mg tablet
tablet(s) by mouth (Prescribed by Other Provider; one po qhs)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 4000mg in 24 hrs 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 capsule(s) by mouth two (2) times a 
day Disp #*60 Capsule Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
___ cause sedation. Do not drink or drive while taking 
RX *tramadol 50 mg half tablet(s) by mouth every six (6) hours 
Disp #*5 Tablet Refills:*0 
4.  Hydrochlorothiazide 25 mg PO DAILY  

And home meds
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stage 2 uterine prolapse, stage 2 anterior wall prolapse, stage 
2 posterior wall prolapse, stress urinary incontinence
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___